US07153997B2
A solution of nitrosonium tetrafluoroborate (121 mg, 1.03 mmol) in dichloromethane (10 mL) was cooled to 0° C. and methyl[3,5-dibromo-4-(3-amino-5-isopropyl-4-methoxy-phenoxy)phenyl]acetate (457 mg, 0.94 mmol) was added. The reaction mixture was stirred at 0° C. for one hour. Dichloromethane was removed by flushing of nitrogen gas and o-xylene (10 mL) was added to the residue. The reaction mixture was heated at reflux for one hour and the organic phase concentrated in vacuo. The residue was purified on column (silica gel, n-heptane/ethyl acetate, gradient elution from 98:2 to 60:40) to give 205 mg (44%) of methyl[3,5-dibromo-4-(3-fluoro-5-isopropyl-4-methoxyphenoxy)phenyl]acetate.

reactant | nitrosonium tetrafluoroborate | 1.03 mmol, 121 mg | F[B-](F)(F)F.N#[O+]
reactant | methyl[3,5-dibromo-4-(3-amino-5-isopropyl-4-methoxy-phenoxy)phenyl]acetate | 0.94 mmol, 457 mg | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)OC)N)Br)=O | C19H21Br2NO4
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl[3,5-dibromo-4-(3-fluoro-5-isopropyl-4-methoxyphenoxy)phenyl]acetate | 205 mg, 44% | COC(CC1=CC(=C(C(=C1)Br)OC1=CC(=C(C(=C1)C(C)C)OC)F)Br)=O | C19H19Br2FO4
